US06780853B1
3β-Ethynyl-3α-hydroxy-21-hydroxyethylthio-5β-pregnan-20-one
A solution of 21-bromo-3β-ethynyl-3α-hydroxy-5β-pregnan-20-one (150 mg, 0.356 mmol), 2-mercaptoethanol (31 μL, 0.445 mmol), and triethylamine (62 μL, 0.445 mmol) in 5 mL of THF was stirred at room temperature overnight. The mixture was partitioned between EtOAc and water. The organic layer was washed with sat. aq. NaCl, dried with Na2SO4 and concentrated in vacuo resulting in 3β-ethynyl-3α-hydroxy-21-hydroxyethylthio-5β-pregnan-20-one (141 mg) as a white solid; mp 122-126° C.; TLC Rf (hexane:acetone 3:1)=0.11.

reactant | 21-bromo-3β-ethynyl-3α-hydroxy-5β-pregnan-20-one | 0.356 mmol, 150 mg | BrCC([C@H]1CC[C@H]2[C@@H]3CC[C@@H]4C[C@@](CC[C@]4(C)[C@H]3CC[C@]12C)(O)C#C)=O | C23H33BrO2
reactant | 2-mercaptoethanol | 0.445 mmol, 31 μL | SCCO | C2H6OS
reactant | triethylamine | 0.445 mmol, 62 μL | C(C)N(CC)CC | C6H15N
reactant | hexane acetone | CCCCCC.CC(=O)C
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3β-Ethynyl-3α-hydroxy-21-hydroxyethylthio-5β-pregnan-20-one | C(#C)[C@@]1(C[C@H]2CC[C@H]3[C@@H]4CC[C@H](C(CSCCO)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)O | C25H38O3S
